US08349849B2
(R)-4-(6-Hydroxy-5-iodoquinazolin-2-yl)-4-methyloxazolidin-2-one
(R)-4-(6-Hydroxy-quinazolin-2-yl)-4-methyl-oxazolidin-2-one (330.0 mg, 0.001346 mol) was dissolved in methylene chloride (500 mL, 8 mol), (heterogeneous) followed by N-iodosuccinimide (302.8 mg, 0.001346 mol) at 23° C. The reaction mixture was then sonicated for 30 seconds, and all the solvent was removed under vacuum (rotavap). The residue was purified via chromatography (SiO2, 20 gm, 0-100% ethyl acetate/hexanes) to give 420 mg of desired product (84%). 1H NMR (MeOD) δ: 9.50 (s, 1H), 7.90 (d, J=9.0 Hz, 1H), 7.60 (d, J=9.0 Hz, 1H), 4.99 (d, J=8.8 Hz, 1H), 4.48 (d, J=8.8 Hz, 1H), 1.79 (s, 3H). MS (M+1): 372.00.

reactant | (R)-4-(6-Hydroxy-quinazolin-2-yl)-4-methyl-oxazolidin-2-one | 0.001346 mol, 330.0 mg | OC=1C=C2C=NC(=NC2=CC1)[C@]1(NC(OC1)=O)C | C12H11N3O3
reactant | methylene chloride | 8 mol, 500 mL | C(Cl)Cl | CH2Cl2
reactant | N-iodosuccinimide | 0.001346 mol, 302.8 mg | IN1C(CCC1=O)=O | C4H4INO2
product | (R)-4-(6-Hydroxy-5-iodoquinazolin-2-yl)-4-methyloxazolidin-2-one | 420 mg, 84% | OC=1C(=C2C=NC(=NC2=CC1)[C@]1(NC(OC1)=O)C)I | C12H10IN3O3
